US06080870
Step D: 2-Chloroethyl 3-butyl-4-phenylbenzoate
To a 200 mL round bottomed flask with a stirring bar and a reflux condenser was added (N-tert-butyl)-3-butyl-4-biphenylcarboxamide (3.17 g, 10.24 mmol), ethylene glycol (25 mL) and 12N HCl (25 mL). This mixture was heated at reflux 72 h. The cooled mixture was extracted with EtOAc and the EtOAc extracts were combined, washed with H2O (3×) and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an oil. This material was chromatographed on silica gel using 30% EtOAc in hexane as eluantto afford the title compound as an oil.

reactant | (N-tert-butyl)-3-butyl-4-biphenylcarboxamide | 10.24 mmol, 3.17 g | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)CCCC | C21H27NO
reactant | HCl | 12N, 25 mL | Cl | ClH
reactant | ethylene glycol | 25 mL | C(CO)O | C2H6O2
product | 2-Chloroethyl 3-butyl-4-phenylbenzoate | C(CCC)C=1C=C(C(=O)OCCCl)C=CC1C1=CC=CC=C1 | C19H21ClO2
